US20010056137A1
1.5-Pentanediol diacetoacetate.
Acetoacetate-functional compound B5 1,1,1-Trimethylol propane tri-acetoacetate, Lonzamon MTMP ex Lonza AG. Functionality: 3, acetoacetate equivalent weight: 128.7 (435 mg KOH/g)

reactant | Acetoacetate | C(CC(=O)C)(=O)[O-]
reactant | 1,1,1-Trimethylol propane tri-acetoacetate | C(CC(=O)C)(=O)O.C(CC(=O)C)(=O)O.C(CC(=O)C)(=O)O.C(O)C(CC)(CO)CO
reactant | KOH | 435 mg | [OH-].[K+]
product | 1.5-Pentanediol diacetoacetate | C(CC(=O)C)(=O)OCCCCCOC(CC(=O)C)=O | C13H20O6
